US05665725
A solution of methyl benzo[b]thiophen-3-ylacetate (69 g) in dry tetrahydrofuran (100 ml) was added dropwise to a suspension of lithium aluminium hydride (10 g) in dry tetrahydrofuran (500 ml) at room temperature followed by reflux for 1 h. Hydrolysis with water, filtration and removal of solvent gave an oil which was applied to a silica gel column (eluent:methylene chloride) giving 34.5 g of benzo[b]thiophen-3-ylethanol as an oil. The product was dissolved in 200 ml of methylene chloride, thionyl chloride (20 ml) was added followed by reflux for 5 h. Removal of solvent and excess thionyl chloride in vacuo gave 3-(2-chloro-1-ethyl)-benzo[b]thiophene as an oil (45 g). The chloride was converted to 4-benzo[b]thiophen-3-yl-1-butanol via treatment with dimethyl malonate followed by hydrolysis, decarboxylation and reduction according to the method described in EXAMPLE 11. The title compound 10a was prepared from 4-benzo[b]thiophen-3-yl-1-butanol and spiro[isobenzofuran-1(3H),4'-piperidine] by the method described in EXAMPLE 2. Yield: 2.2 g, mp: 144°-45° C.

reactant | methyl benzo[b]thiophen-3-ylacetate | 69 g | S1C2=C(C(=C1)CC(=O)OC)C=CC=C2 | C11H10O2S
reactant | lithium aluminium hydride | 10 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | benzo[b]thiophen-3-ylethanol | 34.5 g | S1C2=C(C(=C1)C(C)O)C=CC=C2 | C10H10OS
